US08791132B2
2-(2,8-dimethyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-1-(4-fluorophenyl)ethyl methane sulfonate (250 mg, 0.6 mmol) in methyl amine (40% solution in water, 5 mL) was heated at 100° C. for 4 h. The progress of the reaction was monitored by TLC and LCMS. 10 mL of water was added to the reaction mixture and then extracted with EtOAc (2×50 mL). The organic layer was dried over anhydrous sodium sulfate and concentrated under vacuum to obtain the crude product, which was purified by reverse phase HPLC to obtain 2-(2,8-dimethyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-1-(4-fluorophenyl)-N-methyl ethanamine (30 mg) as the TFA salt. 1H NMR (CDCl3, freebase): δ (ppm): 7.32 (t, 2H), 7.24 (m, 1H), 7.21 (s, 1H), 7.01 (m, 3H), 3.91 (m, 2H), 3.65 (dd, 2H), 2.80 (m, 3H), 2.62 (m, 1H), 2.54 (s, 3H), 2.45 (s, 3H), 2.14 (s, 3H). Chiral HPLC separated the racemate into enantiomers II-12a-b.

reactant | 2-(2,8-dimethyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-1-(4-fluorophenyl)ethyl methane sulfonate | 0.6 mmol, 250 mg | CS(=O)(=O)OC(CN1C2=C(C=3C=C(C=CC13)C)CN(CC2)C)C2=CC=C(C=C2)F | C22H25FN2O3S
reactant | water | 10 mL | O | H2O
reactant | methyl amine | 5 mL | CN | CH5N
product | 2-(2,8-dimethyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-1-(4-fluorophenyl)-N-methyl ethanamine | 30 mg | CN1CC2=C(N(C=3C=CC(=CC23)C)CC(NC)C2=CC=C(C=C2)F)CC1 | C22H26FN3
